US07598264B2
Methyl 6-(3-chloro-4-fluorobenzyl)-3,4-dihydroxy-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxylate
Ethyl 3,4-bis(acetyloxy)-6-(3-chloro-4-fluorobenzyl)-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxylate (27.8 g, 58 mmol) was dissolved in 300 mL MeOH and treated with a 30% by weight solution of NaOMe in MeOH (41.8 mL, 232 mmol, 4 equivalents was sufficient to get the pH of the reaction to 9) for 5 hours at 40° C. LCMS showed the cleavage of the acetate groups was complete, a little transesterification was observed as well. The volume was reduced by half under vacuum and the mixture was diluted with THF (400 mL) and an additional 33 mL of NaOMe was added. The reaction was stirred at room temperature overnight and then warmed to 50° C. for four hours, when LCMS showed transesterification completed. The reaction was neutralized with 1N HCl and allowed to sit at room temperature overnight, then later acidified to pH 3 and extracted with CHCl3 several times. The organic layer was dried over Na2SO4 and evaporated to give a black oil.

reactant | Ethyl 3,4-bis(acetyloxy)-6-(3-chloro-4-fluorobenzyl)-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxylate | 58 mmol, 27.8 g | C(C)(=O)OC=1N=C(C=2CCN(C(C2C1OC(C)=O)=O)CC1=CC(=C(C=C1)F)Cl)C(=O)OCC | C22H20ClFN2O7
reactant | NaOMe | C[O-].[Na+]
reactant | NaOMe | 33 mL | C[O-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | MeOH | 300 mL | CO | CH4O
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | Methyl 6-(3-chloro-4-fluorobenzyl)-3,4-dihydroxy-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxylate | ClC=1C=C(CN2C(C=3C(=C(N=C(C3CC2)C(=O)OC)O)O)=O)C=CC1F | C17H14ClFN2O5
